US07514566B2
A glass microwave reaction vessel was charged with bis(pinacolato)diboron (867 mg, 3414 μmol), potassium acetate (267 μl, 4267 μmol), tricyclohexylphosphine (115 mg, 410 μmol), 6-bromo-5-fluorobenzo[d]oxazol-2(3H)-one (660 mg, 2845 μmol), Pd2(dba)3 (156 mg, 171 μmol), and 5 mL of dioxane. The reaction mixture was stirred and heated in a Smith Synthesizer® microwave reactor (Personal Chemistry, Inc., Upssala, Sweden) at 150° C. for 40 minutes. The reaction mixture was concentrated and dry-packed, then purified with silica gel column chromatography, eluting with 0-40% EtOAc/hexane providing 5-fluoro-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzo[d]oxazol-2(3H)-one (680 mg, 85.7% yield) as light yellow solid. MS m/z: 280 (M+1).

reactant | bis(pinacolato)diboron | 3414 μmol, 867 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 4267 μmol, 267 μl | C(C)(=O)[O-].[K+]
reactant | tricyclohexylphosphine | 410 μmol, 115 mg | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | 6-bromo-5-fluorobenzo[d]oxazol-2(3H)-one | 2845 μmol, 660 mg | BrC1=CC2=C(NC(O2)=O)C=C1F | C7H3BrFNO2
catalyst | Pd2(dba)3 | 171 μmol, 156 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 5-fluoro-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzo[d]oxazol-2(3H)-one | 680 mg, 85.7% yield | FC=1C(=CC2=C(NC(O2)=O)C1)B1OC(C(O1)(C)C)(C)C | C13H15BFNO4
